US04511392
N-[2-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide
A suspension of 48 g of N-[2-(1-oxo-1-ethanyl)phenyl]acetamide and 38 g of N,N-dimethylformamide dimethyl acetal in 150 ml of toluene was heated at reflux for about 16 hours, then concentrated in vacuo to a solid. The solid was recrystallized from 1-chlorobutane to yield 40 g of the title compound; m.p. 90°-95° C.

reactant | N-[2-(1-oxo-1-ethanyl)phenyl]acetamide | 48 g | O=C(C)C1=C(C=CC=C1)NC(C)=O | C10H11NO2
reactant | N,N-dimethylformamide dimethyl acetal | 38 g | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide | 40 g | CN(C=CC(=O)C1=C(C=CC=C1)NC(C)=O)C | C13H16N2O2
